US08557830B2
A mixture of N-(3-(1H-pyrazolo[3,4-d]pyrimidin-4-yl)pyridin-2-yl)-1-chloro-6-methylisoquinolin-5-amine (160 mg, 413 mmol), 4-aminobenzonitrile (53.6 mg, 454 μmol), tris(dibenzylideneacetone)dipalladium(0) (18.9 mg, 20.6 μmol) and DavePhos (17.9 mg, 45.4 mmol) in THF (3 ml) was slightly vacuumed to de-gas, and then lithium bis(trimethylsilyl)amide (1.0 M solution in THF) (1857 μl, 1857 μmol) was added and the microwave tube was sealed under N2 gas. The mixture was heated in a microwave reactor at 100° C. for 30 min. The mixture was poured into DCM (10 ml)-AcOH (0.5 ml) and stirred for 10 min, then Et3N (0.5 ml) was added. Solvent was removed under vacuum and the residue was purified by flash chromatography eluting with MeOH/DCM (1-4%) to give 4-(5-(3-(1H-pyrazolo[3,4-d]pyrimidin-4-yl)pyridin-2-ylamino)-6-methylisoquinolin-1-ylamino)benzonitrile. MS Found: (ESI pos. ion) m/z 470 (M+H+).

reactant | N-(3-(1H-pyrazolo[3,4-d]pyrimidin-4-yl)pyridin-2-yl)-1-chloro-6-methylisoquinolin-5-amine | 413 mmol, 160 mg | N1N=CC=2C1=NC=NC2C=2C(=NC=CC2)NC=2C=1C=CN=C(C1C=CC2C)Cl | C20H14ClN7
reactant | 4-aminobenzonitrile | 454 μmol, 53.6 mg | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | DavePhos | 45.4 mmol, 17.9 mg | CN(C)C1=CC=CC=C1C2=CC=CC=C2P(C3CCCCC3)C4CCCCC4 | C26H36NP
reactant | lithium bis(trimethylsilyl)amide | 1857 μmol, 1.0 M, 1857 μl | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | THF | 3 ml | C1CCOC1 | C4H8O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 20.6 μmol, 18.9 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | Et3N | 0.5 ml | CCN(CC)CC | C6H15N
solvent | AcOH | 0.5 ml | CC(=O)O | C2H4O2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-(5-(3-(1H-pyrazolo[3,4-d]pyrimidin-4-yl)pyridin-2-ylamino)-6-methylisoquinolin-1-ylamino)benzonitrile | N1N=CC=2C1=NC=NC2C=2C(=NC=CC2)NC2=C1C=CN=C(C1=CC=C2C)NC2=CC=C(C#N)C=C2 | C27H19N9
